data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3496,3987,[CH3:10][C:11](=[O:12])[C:13](=[O+:14][O-:15])[C:16]([CH3:17])=[O:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:13]([C:11]([CH3:10])=[O:12])([C:16]([CH3:17])=[O:18])[O:14][O:15]1,water,298.15,10.596993478769315,-37.13993234947283
3881,4441,[CH3:10][NH:11][C:12](=[O:13])[c-:14]1[nH+:15][c:16]([CH3:17])[o:18][c:19]1=[O:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]2([C:12]([NH:11][CH3:10])=[O:13])[NH:15][C:16]1([CH3:17])[O:18][C:19]2=[O:20],water,298.15,28.862362016741475,4.61990458308245
4381,5002,[CH3:9][NH:10][C:11](=[O:12])[C-:13]([N+:14]#[C:15][C:16](=[O:17])[O:18][CH3:19])[C:20](=[O:21])[NH:22][CH3:23].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:13]([C:11]([NH:10][CH3:9])=[O:12])([C:20](=[O:21])[NH:22][CH3:23])[N:14]=[C:15]1[C:16](=[O:17])[O:18][CH3:19],water,298.15,12.119723327605191,-42.57996200955385
259,283,[CH2-:12][N+:13]#[C:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][O:2][C:3]12[C:4]([C:5]#[N:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[CH2:12][N:13]=[C:14]2[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,10.453001236444845,-58.50695335239016
3638,4157,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C-:12]([C:13]#[N:14])[NH+:15]=[C:16]([C:17]#[N:18])[C:19]#[N:20]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:12]([CH3:11])([C:13]#[N:14])[NH:15][C:16]2([C:17]#[N:18])[C:19]#[N:20],water,298.15,24.166538347419205,-13.705960628369072
1227,1336,[CH3:14][C:15](=[O:16])[c:17]1[o:18][c:19](=[O:20])[c-:21]([C:22]([CH3:23])=[O:24])[n+:25]1[CH3:26].[CH:1]1=[CH:2][CH:3]2[O:4][CH:5]1[CH:6]=[C:7]2[c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1>>[CH:1]1=[CH:2][CH:3]2[O:4][CH:5]1[CH:6]1[C:7]2([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)[C:21]2([C:22]([CH3:23])=[O:24])[C:19](=[O:20])[O:18][C:17]1([C:15]([CH3:14])=[O:16])[N:25]2[CH3:26],water,298.15,24.399701769661625,-5.644298043593718
4970,5657,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([C:12](=[O:13])[NH:14][CH3:15])=[N+:16]([CH3:17])[C-:18]([C:19](=[O:20])[NH:21][CH3:22])[C:23](=[O:24])[O:25][CH3:26]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:18]([C:19](=[O:20])[NH:21][CH3:22])([C:23](=[O:24])[O:25][CH3:26])[N:16]([CH3:17])[C:11]1([C:9]([NH:8][CH3:7])=[O:10])[C:12](=[O:13])[NH:14][CH3:15],water,298.15,32.02201702314611,-22.4081521661538
3284,3720,[CH3:9][N-:10][O+:11]=[C:12]([C:13]#[N:14])[C:15]([CH3:16])=[O:17].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[N:10]([CH3:9])[O:11][C:12]1([C:13]#[N:14])[C:15]([CH3:16])=[O:17],water,298.15,13.661226056851833,-35.29606445008004
4532,5172,[CH3:9][O:10][C:11](=[O:12])[C:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)=[N+:20]([CH3:21])[C-:22]([CH3:23])[CH3:24].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:22]([CH3:23])([CH3:24])[N:20]([CH3:21])[C:13]1([C:11]([O:10][CH3:9])=[O:12])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,32.80383108370361,-11.69625748661254
4344,4965,[CH3:10][O:11][C:12](=[O:13])[C:14](=[NH+:15][C-:16]([C:17]#[N:18])[C:19]#[N:20])[C:21]([CH3:22])=[O:23].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:16]([C:17]#[N:18])([C:19]#[N:20])[NH:15][C:14]1([C:12]([O:11][CH3:10])=[O:13])[C:21]([CH3:22])=[O:23],water,298.15,23.278534486550303,-9.436104441547606
4841,5523,[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15]#[N:16])=[N+:17]([CH3:18])[C-:19]([CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:19]([CH3:20])([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[N:17]([CH3:18])[C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:15]#[N:16],water,298.15,27.459291042046512,-11.641142493558547
4942,5628,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]([C:16](=[O:17])[O:18][CH3:19])=[N+:20]([CH3:21])[C-:22]([CH3:23])[C:24]([CH3:25])=[O:26]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([O:12][CH3:11])=[O:14])([C:16](=[O:17])[O:18][CH3:19])[N:20]([CH3:21])[C:22]2([CH3:23])[C:24]([CH3:25])=[O:26],water,298.15,48.40581844007691,-1.7781580833620252
